* klt-pex-native write-access-time testbench BODY (issue #95) -- a circuit
* body only, no `.control`/`.end`/analysis card of its own, per klt sim's
* own "netlist convention" (docs/cli/sim.md): the PVT axis, `.meas` cards,
* and `.control` wrapper are all supplied by the request document
* (../requests/write-access-time.request.json), not by this file.
*
* This is a NEW, PARALLEL artifact -- it does not modify, and is not a
* substitute for, the ratified #24 signoff testbench
* (sim/access-time/testbench/tb_write_access_time.spice). That file remains
* the T1-item-9 evidence; this one exists solely so `klt pex` can produce a
* schematic-vs-extracted delta for write access time. See sim/pex/README.md.
*
* DUT: exactly one `.include` line (klt pex requires exactly one -- see
* docs/cli/pex.md "Exactly one `.include`/`.inc` line is required"),
* swapped by `klt pex` between this file (the schematic-side SUBCKT
* wrapper, ../dut/bitcell_6t_subckt.spice) and its own extracted-netlist
* output. Both declare `.SUBCKT sram_bitcell_6t BL BLB Q QB VDD VSS WL`,
* so the X-instantiation below is reused byte-identical on both legs
* (docs/cli/pex.md "The DUT .include swap").
*
* Path is relative to THIS file's own directory, not the invoking shell's
* cwd -- deliberately, to satisfy two different resolvers that disagree
* about the base directory for a relative `.include`: klt pex's own
* Python-side `_find_dut_include` resolves it against the testbench body
* file's directory (so `reference_netlist` in the JSON report comes out
* correct), while ngspice itself resolves a nested `.include` (one found
* inside an already-`.include`d file) against its OWN process cwd. Both
* agree only when cwd == this file's directory at invocation time --
* ../generate.sh `cd`s here before invoking `klt pex` for exactly this
* reason; do not run `klt pex` against this file from any other cwd.
.include '../dut/bitcell_6t_subckt.spice'
XDUT BL BLB Q QB VDD VSS WL sram_bitcell_6t

* gf180mcu's model file (sm141064.ngspice) references
* `sw_stat_global`/`sw_stat_mismatch`/`mc_skew`/`res_mc_skew`/
* `cap_mc_skew`/`fnoicor` unconditionally (every `.LIB typical`/`ff`/`ss`
* section pulls in `.LIB noise_corner`, whose flicker-noise coefficients
* are themselves expressions in `fnoicor`) -- normally supplied by
* `$PDK_ROOT/$PDK/libs.tech/ngspice/design.ngspice`, which every ratified
* #24 testbench `.include`s via corner.inc. This file cannot also
* `.include` that file (klt pex's one-`.include` rule above), so these are
* the same six defaults inlined as literal `.param` cards instead --
* verified order-independent relative to klt sim's generated `.lib` line
* (ngspice resolves `.param` through a whole-deck symbol table, not
* sequential text order).
.param sw_stat_global=0
.param sw_stat_mismatch=0
.param mc_skew=3
.param res_mc_skew=3
.param cap_mc_skew=3
.param fnoicor=0

* klt extract --parasitics lands every net's substrate-coupling
* capacitance on an internal, un-pinned `vsubs` node inside the extracted
* SUBCKT (not exposed as a pin -- see sim/pex/README.md's "New finding:
* extracted netlist needs `.options rshunt`" section). With no DC path to
* any reference, the extracted leg's DC/transient solve hits a singular
* matrix on that node at every corner without this option. `rshunt` is
* ngspice's own documented remedy for a floating-node singularity (a very
* large resistor from every node to ground) -- confirmed byte-identical
* measured values with/without it on the schematic leg (no floating nodes
* there), so this is safe to declare unconditionally for both legs of the
* delta rather than only the extracted one.
.options rshunt=1e12

* Supply: alter'd per corner by the request's `corners.supply_v.vvdd` axis
* (matches this repo's sim/README.md convention of naming the supply
* source VVDD).
VVDD VDD 0 DC 3.3
VVSS VSS 0 DC 0

* Write driver, full-strength (matches the ratified testbench's own
* rationale -- this measures access time at rated drive strength, not
* write-margin's minimum-drive boundary). Its differential is scaled to
* the corner's own actual VDD via a behavioral B-source referencing
* V(VDD) -- a real circuit node the request's supply axis alters -- since
* a klt-sim request's netlist body is corner-invariant text and cannot run
* the ratified testbench's own per-corner `.param VDDC` substitution (see
* docs/cli/sim.md "Netlist convention: a circuit body, not a full deck").
VBL_U BL_U 0 PWL(0 1 5n 1)
BBL BL 0 V='V(BL_U)*V(VDD)'
VBLB_U BLB_U 0 PWL(0 0 5n 0)
BBLB BLB 0 V='V(BLB_U)*V(VDD)'

* WL asserted at t=1.1n, writing '1' into a cell preset to '0' via `.ic`
* below (matching the ratified testbench's own timing).
VWL_U WL_U 0 PWL(0 0 1n 0 1.1n 1 5n 1)
BWL WL 0 V='V(WL_U)*V(VDD)'

* Preset to '0': v(QB)=2.8V is a corner-invariant literal deliberately
* chosen BELOW the ratified 27-corner matrix's lowest supply (2.97V) --
* unlike the ratified testbench's own `.ic v(Q)=0 v(QB)='VDDC'` (exact
* per-corner value, available there via `.param VDDC` from corner.inc),
* this file's netlist body is corner-invariant text and cannot reference
* the swept VDD directly in a `.ic` card. Starting comfortably inside the
* regenerative region (~85% of the lowest corner's rail, far from the
* Q=QB metastable point) lets the cross-coupled pair's own feedback settle
* onto whichever corner's real VDD is actually altered in, well before
* t=1.1n's write event -- see sim/pex/access-time/README.md for the
* committed per-corner results this produces across the full 2.97-3.63V
* range (no corner shows a convergence anomaly attributable to this
* choice).
.ic v(Q)=0 v(QB)=2.8
