* Read SNM testbench -- bitcell_6t, decoupled half-cell fixture.
*
* Claim under test: spec/sram.md "Characterization" -- read static noise
* margin (read SNM), one of the four ratified measurements, swept across
* the 9-corner PVT matrix.
*
* Corner selection is provided by ./corner.inc (a small fragment written by
* sim/lib/run_corner_sweep.sh immediately before each ngspice invocation --
* see sim/README.md for the generated content and invocation). It sets:
*   .param VDDC=<corner supply>
*   .temp <corner temperature>
*   .lib '<gf180mcu model file>' <corner process section>
*   .include '<gf180mcu design.ngspice>' (default corner-switch params the
*             model file's .LIB sections require, e.g. fnoicor)
.include './corner.inc'

* ---------------------------------------------------------------------
* Why this is a device-level replica, not a `.include` of
* design/netlist/bitcell_6t.spice, and why one replica (not two) suffices
* ---------------------------------------------------------------------
* The classic butterfly-curve SNM extraction (Seevinck et al., "Static-
* Noise Margin Analysis of MOS SRAM Cells," IEEE JSSC 1987) needs
* independent access to both cross-coupled storage nodes (Q, QB) so one
* inverter's input can be swept while its output -- loaded exactly as it
* would be in the real cell -- is measured. `bitcell_6t`'s netlist
* (design/netlist/bitcell_6t.spice) exposes only BL, BLB, WL, VDD, VSS as
* ports; Q and QB are internal to that subcircuit's cross-coupled wiring
* and cannot be independently driven from outside it (SPICE has no way to
* inject a source between two nodes where one is a subcircuit's private
* internal node without editing the subcircuit itself, which is out of
* this issue's scope -- design/ is a read-only dependency here).
*
* This fixture instead builds ONE storage inverter + its access transistor
* directly, device-for-device identical to bitcell_6t.spice's left/right
* half (same models, same W/L, same parasitic-area formulas -- copied
* verbatim from design/netlist/bitcell_6t.spice, which the design decision
* in design/README.md documents as sized: MPL/MPR pfet_03v3 W=0.22u
* L=0.28u, MNL/MNR nfet_03v3 W=0.36u L=0.28u, MAL/MAR nfet_03v3 W=0.24u
* L=0.28u). Because bitcell_6t's two half-cells are identical devices,
* one inverter's Vout-vs-Vin sweep IS the other inverter's transfer
* function too -- the second butterfly branch is this same curve mirrored
* about the y=x diagonal, not a second circuit. sim/lib/snm_extract.py
* builds that mirror numerically (by composing the sweep with itself,
* f(f(x)), rather than constructing an explicit inverse table -- see that
* script's module docstring for why) and reports the minimum inscribed
* square as the SNM.
*
* Read condition: BL held at VDD (precharged, as in a real read access)
* and WL asserted, so the access transistor loads the storage node exactly
* as it would during a read -- this is what makes the "read" in "read
* SNM" real rather than nominal.
.param VIN_STOP='VDDC'

VVDD VDD 0 DC VDDC
VSS VSS 0 DC 0
VIN IN 0 DC 0
VBL BLLOAD 0 DC VDDC
VWL WL 0 DC VDDC

XMP OUT IN VDD VDD pfet_03v3 L=0.28u W=0.22u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMN OUT IN VSS VSS nfet_03v3 L=0.28u W=0.36u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMA BLLOAD WL OUT VSS nfet_03v3 L=0.28u W=0.24u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1

.dc VIN 0 {VIN_STOP} 0.005

.control
run
wrdata read_snm_sweep.txt v(OUT)
.endc
.end
